US07816353B2
Synthesis of 2-(2-Amino-5-cyano-6-methylamino-pyrimidin-4-ylsulfanyl)-N-(3-trifluoromethyl-phenyl)-acetamide
To a 50 mL round-bottomed flask were added 2-(2-Amino-5-cyano-6-methanesulfinyl-pyrimidin-4-ylsulfanyl)-N-(3-trifluoromethyl-phenyl)-acetamide (0.2 mmol, 1.0 eq.), methyl amine (2M in THF, 0.3 mmol), and acetonitrile (1 mL). The reaction mixture was stirred at room temperature for overnight. The crude material was purified by column chromatography (18 mg). LC-MS: (ES+) m/z 383 (M+1). 1H-NMR, Varian 400 MHz (DMSO-d6) δ 10.47 (s, 1H), 8.07(s, 1H), 7.75 (d, 1H), 7.55 (t, 1H), 7.40 (d, 1H), 7.36 (d, 1H), 7.25 (s, 1H), 3.95 (s, 2H), 2.73 (d, 3H) ppm.

reactant | 2-(2-Amino-5-cyano-6-methanesulfinyl-pyrimidin-4-ylsulfanyl)-N-(3-trifluoromethyl-phenyl)-acetamide | 0.2 mmol, 1.0 eq. | NC1=NC(=C(C(=N1)SCC(=O)NC1=CC(=CC=C1)C(F)(F)F)C#N)S(=O)C | C15H12F3N5O2S2
reactant | methyl amine | 0.3 mmol, 2M | CN | CH5N
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | 2-(2-Amino-5-cyano-6-methylamino-pyrimidin-4-ylsulfanyl)-N-(3-trifluoromethyl-phenyl)-acetamide | NC1=NC(=C(C(=N1)SCC(=O)NC1=CC(=CC=C1)C(F)(F)F)C#N)NC | C15H13F3N6OS
